US07994171B2
2-(4-Fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(pyrazin-2-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide.
5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid (0.16 g, 0.369 mmol, 1 eq), 1-(pyrazin-2-yl)cyclopropanamine (0.05 g, 0.369 mmol, 1 eq), EDCI.HCl (0.07 g, 0.369 mmol, 1 eq), HOBT (0.05 g, 0.369 mmol, 1.0 eq) and TEA (0.15 ml, 1.107 mmol, 3 eq) were dissolved in dichloromethane and the above mixture was stirred at room temperature for 18 h. The mixture was then added with water, and organic layer separated and washed with water. The organic layer was dried over Na2SO4 and concentrated. The crude product obtained was purified by Prep. HPLC. 1H NMR (400 MHz, CD3OD): δ 1.43-1.46 (m, 2H), 1.72-1.75 (m, 2H), 2.37 (s, 3H), 2.95 (s, 3H), 4.08 (s, 3H), 7.161 (s, 1H), 7.25-7.30 (m, 2H), 7.35 (dd, J=2, 8.4 Hz, 1H), 7.59 (d, J=1.2 Hz, 1H), 7.64 (d, J=8.4 Hz, 1H), 7.76 (s, 1H), 7.96-7.99 (m, 2H), 8.36 (d, J=2.8 Hz, 1H), 8.520-8.531 (m, 1H), 8.72 (d, J=1.2 Hz, 1H). LCMS: (ES+) m/z=551.2 (M+H)+

reactant | 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid | 0.369 mmol, 0.16 g, 1 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C(=CC(=C(C(=O)O)C2)OC)C | C25H20FNO5
reactant | 1-(pyrazin-2-yl)cyclopropanamine | 0.369 mmol, 0.05 g, 1 eq | N1=C(C=NC=C1)C1(CC1)N | C7H9N3
reactant | EDCI.HCl | 0.369 mmol, 0.07 g, 1 eq | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.369 mmol, 0.05 g, 1.0 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-(4-Fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(pyrazin-2-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=C(C(=C2)C(NC2(CC2)C2=NC=CN=C2)=O)OC)C | C32H27FN4O4
